US04788304
2-[1-Hydroxy-5-phenylpentyl]-2-oxiranecarboxylic acid methyl ester (isomer B)
A solution of 11.2 g (45 mmol) of β-hydroxy-α-methylenebenzeneheptanoic acid methyl ester in 300 ml of 1,2-dichloroethane is treated with 200 mg of 4,4'-thiobis(6-t-butyl-m-cresol) and 24.5 g (138 mmol) of m-chloroperoxybenzoic acid. The mixture is heated to reflux under nitrogen for 26 hours.

reactant | β-hydroxy-α-methylenebenzeneheptanoic acid methyl ester | 45 mmol, 11.2 g | COC(C(C(CCCCC1=CC=CC=C1)O)=C)=O | C15H20O3
reactant | 4,4'-thiobis(6-t-butyl-m-cresol) | 200 mg | S(C=1C(=CC(=C(C1)C(C)(C)C)O)C)C=1C(=CC(=C(C1)C(C)(C)C)O)C | C22H30O2S
reactant | m-chloroperoxybenzoic acid | 138 mmol, 24.5 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
product | 2-[1-Hydroxy-5-phenylpentyl]-2-oxiranecarboxylic acid methyl ester | COC(=O)C1(OC1)C(CCCCC1=CC=CC=C1)O | C15H20O4
